US04613609
A. 1-[4-(4-Chlorophenyl)butyl]-3-propylimidazolium chloride
Add 7.13 g (0.035 mole) of 1-chloro-4-(4-chlorobutyl)benzene to 3.52 g (0.032 mole) of 1-propyl-1H-imidazole and heat to 130° C. for 18 hours. Follow the progress of reaction by NMR (CDCl3). At the completion of the reaction, cool to room temperature to obtain the title compound.

reactant | 1-chloro-4-(4-chlorobutyl)benzene | 0.035 mole, 7.13 g | ClC1=CC=C(C=C1)CCCCCl | C10H12Cl2
reactant | 1-propyl-1H-imidazole | 0.032 mole, 3.52 g | C(CC)N1C=NC=C1 | C6H10N2
product | 1-[4-(4-Chlorophenyl)butyl]-3-propylimidazolium chloride | [Cl-].ClC1=CC=C(C=C1)CCCC[N+]1=CN(C=C1)CCC | InChI=1S/C16H22ClN2.ClH/c1-2-10-18-12-13-19(14-18)11-4-3-5-15-6-8-16(17)9-7-15;/h6-9,12-14H,2-5,10-11H2,1H3;1H/q+1;/p-1
